US07534797B2
3-[8-Amino-1-(2-phenyl-quinolin-7-yl)-imidazo[1,5-a]pyrazin-3-yl]-cyclobutanone
To a solution of 3-[8-amino-1-(2-phenylquinolin-7-yl)-imidazo[1,5-a]pyrazin-3-yl]-1-hydroxymethyl-cyclobutanol (7.282 g, 17.69 mmol) in THF-water mixture (200 mL, 3:1) was added NaIO4 (4.542 g, 21.23 mmol) and the reaction was stirred at rt overnight. The reaction mixture was diluted with DCM (500 mL) and the DCM layer was separated, washed with brine, dried over anhydrous Na2SO4 and evaporated in vacuo. The crude product was purified by chromatography on silica gel using DCM: MeOH as eluent (0%→2%) yielded the desired compound as a yellow solid. MS (ES+): m/z 406.15 [MH+]. HPLC: tR=2.23 min (OpenLynx, polar—5 min). 1H NMR (400 MHz, CDCl3) δ 3.60-3.36 (m, 2H), 3.82-3.92 (m, 3H), 5.31 (br, 2H), 7.21 (dd, J=12.8, 4.8 Hz, 2H), 7.48-7.56 (m, 3H), 7.91-7.98 (m, 3H), 8.18-8.20 (m, 2H), 8.28 (d, J=8.0 Hz, 1H), 8.42 (s, 1H).

reactant | 3-[8-amino-1-(2-phenylquinolin-7-yl)-imidazo[1,5-a]pyrazin-3-yl]-1-hydroxymethyl-cyclobutanol | 17.69 mmol, 7.282 g | NC=1C=2N(C=CN1)C(=NC2C2=CC=C1C=CC(=NC1=C2)C2=CC=CC=C2)C2CC(C2)(O)CO | C26H23N5O2
solvent | THF water | 200 mL | C1CCOC1.O
solvent | DCM | 500 mL | C(Cl)Cl | CH2Cl2
product | 3-[8-Amino-1-(2-phenyl-quinolin-7-yl)-imidazo[1,5-a]pyrazin-3-yl]-cyclobutanone | NC=1C=2N(C=CN1)C(=NC2C2=CC=C1C=CC(=NC1=C2)C2=CC=CC=C2)C2CC(C2)=O | C25H19N5O
